US04525356
N-(2-Diethylaminoethyl)-4'-nitroflavone-8-carboxamide
The same procedure as in Example 31 was performed employing 0.34 g of N,N-diethylethylenediamine and 4'-nitroflavone-8-carboxylic acid chloride (prepared from 1.00 g of 4'-nitroflavone-8-carboxylic acid and 1.40 ml of thionyl chloride) in 30 ml of benzene to give 0.78 g of yellow crystals, which were recrystallized from methanol as yellowish brown crystals, m.p. 207°-209° C.

reactant | N,N-diethylethylenediamine | 0.34 g | C(C)N(CCN)CC | C6H16N2
reactant | 4'-nitroflavone-8-carboxylic acid chloride | 1.40 ml, 1.00 g | [N+](=O)([O-])C1=CC=C(C=2OC3=C(C=CC=C3C(C2)=O)C(=O)Cl)C=C1 | C16H8ClNO5
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | N-(2-Diethylaminoethyl)-4'-nitroflavone-8-carboxamide | 0.78 g | C(C)N(CCNC(=O)C=1C=CC=C2C(C=C(OC12)C1=CC=C(C=C1)[N+](=O)[O-])=O)CC | C22H23N3O5
